US04507299
B. 5-Chloro-3-[(benzylimino)methyl]-6-(methylthio)pyrazineamine
In 2 ml of heated isopropanol there was dissolved 2-amino-5-chloro-3-formyl-6-(methylthio)pyrazine (60 mg; 0.3 mMol) prepared in Step A above. Benzylamine (35 mg; 0.33 mMol) was then added, and the reaction mixture was heated for 2 minutes on a steam bath, and then allowed to cool to room temperature. The reaction mixture was redissolved in 5 ml of isopropanol, a 20% excess of benzylamine was added, and stirring was continued overnight at room temperature. Product precipitated, was filtered and dried (38 mg).

reactant | 2-amino-5-chloro-3-formyl-6-(methylthio)pyrazine | 0.3 mMol, 60 mg | NC1=NC(=C(N=C1C=O)Cl)SC | C6H6ClN3OS
reactant | Benzylamine | 0.33 mMol, 35 mg | C(C1=CC=CC=C1)N | C7H9N
solvent | isopropanol | 2 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | 5-Chloro-3-[(benzylimino)methyl]-6-(methylthio)pyrazineamine | ClC=1N=C(C(=NC1SC)N)C=NCC1=CC=CC=C1 | C13H13ClN4S
